US06596772B1
{4-[(4-Trifluoromethanesulfonyl-phenoxy)-benzenesulfonyl]-phenoxy)-acetic acid ethyl ester (19).
A mixture of ethyl [4-(4-hydroxyphenylsulfonyl)phenoxy]acetate (100 mg, 0.3 mmol), 4-(trifluoromethylsulfonyl)chlorobenzene (73 mg, 1 equiv.) and potassium carbonate (164 mg, 4 equiv.) in DMF was heated to 100° C. overnight. The reaction was poured into water, extracted with EtOAc, washed with organic layer with water, brine, dried and concentrated. The residue was column chromatographed to give{4-[4-(4-trifluoromethanesulfonyl-phenoxy)-benzenesulfonyl]-phenoxy}-acetic acid ethyl ester. 1HNMR (300 MHz, DMSO-d6) δ 8.11 (d, J=8.92 Hz, 2H), 8.03 (d, J=8.77 Hz, 2H), 7.90 (d, J=8.98 Hz, 2H), 7.39-7.43 (m, 4H), 7.14 (d, J=8.77 Hz, 2H), 4.90 (s, 2H, CH2), 4.15 (q, J=7.02 Hz, 2H, OCH2CH3), 1.19 (t, J=7.02 Hz, 3H, OCH2CH3). MS-EI m/z 544 [M+].

reactant | ethyl [4-(4-hydroxyphenylsulfonyl)phenoxy]acetate | 0.3 mmol, 100 mg | OC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(OCC(=O)OCC)C=C1 | C16H16O6S
reactant | 4-(trifluoromethylsulfonyl)chlorobenzene | 73 mg, 1 equiv. | FC(S(=O)(=O)C1=CC=C(C=C1)Cl)(F)F | C7H4ClF3O2S
reactant | potassium carbonate | 164 mg, 4 equiv. | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | {4-[(4-Trifluoromethanesulfonyl-phenoxy)-benzenesulfonyl]-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=CC=C(C=C1)S(=O)(=O)C1=C(C=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)C(F)(F)F)=O | C23H19F3O8S2
